US07094801B2
Ex-121A: 5-Bromo-2,4-dimethoxybenzaldehyde (1.0 g, 4.0 mmol) and 2,3-dihydrofuran (0.85 g, 12.2 mmol) were dissolved in dioxane (10.0 mL). Nitrogen was bubbled into the solution for 15 min followed by the sequential addition of cesium carbonate (1.4 g, 4.5 mmol) and bis(tri-t-butylphosphine)palladium (0) (0.021 g, 0.041 mmol). The solution was immediately heated to 45° C. and aged for 72 h. Additional equivalents of cesium carbonate (0.70 g, 2.1 mmol), 2,3-dihydrofuran (0.85 g, 12.2 mmol), and Pd catalyst (0.0021 g, 0.0041 mmol) were added after 24 h and 48 h to drive the reaction to completion. Upon completion, as determined by HPLC, the reaction was diluted with water (30 mL) and extracted with ethyl acetate (3×30 mL). The combined organic extracts were dried over sodium sulfate and concentrated to an orange oil. Silica gel chromatography (ethyl acetate/hexanes, 1:2) afforded 0.32 g (50%) of 5-(2,5-dihydro-furan-2-yl)-2,4-dimethoxy-benzaldehyde as a pale yellow solid, mp 84–85° C. 1H-NMR (300 MHz, CDCl3) δ 10.29 (s, 1H), 7.79 (s, 1H), 6.42 (s, 1H), 5.99–6.06 (m, 2H), 5.89–5.92 (m, 1H), 4.80–4.87 (m, 1H), 4.71–4.77 (m, 1H), 3.95 (s, 3H), 3.92 (s, 3H). MS (EI) m/z=234 ([M]+, 100%). Anal. Calcd. C13H14O4: C, 66.66; H, 6.02. Found: C, 66.49; H, 6.08.

reactant | 5-Bromo-2,4-dimethoxybenzaldehyde | 4.0 mmol, 1.0 g | BrC=1C(=CC(=C(C=O)C1)OC)OC | C9H9BrO3
reactant | 2,3-dihydrofuran | 12.2 mmol, 0.85 g | O1CCC=C1 | C4H6O
reactant | cesium carbonate | 4.5 mmol, 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cesium carbonate | 2.1 mmol, 0.70 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,3-dihydrofuran | 12.2 mmol, 0.85 g | O1CCC=C1 | C4H6O
solvent | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd | 0.0041 mmol, 0.0021 g | [Pd] | Pd
solvent | water | 30 mL | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium | 0.041 mmol, 0.021 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 5-(2,5-dihydro-furan-2-yl)-2,4-dimethoxy-benzaldehyde | 0.32 g, 50% | O1C(C=CC1)C=1C(=CC(=C(C=O)C1)OC)OC | C13H14O4
